US05656642
120 mg of sodium hydride was added, under ice-cooling, to a solution of 1.0 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-hydroxy-4-(1,2,4-triazol-1-yl)benzoyl]piperidine in 10 ml of dimethylformamide. The mixture was stirred for 1 hour. Thereto was dropwise added 320 mg of (2-chloroethyl)dimethylamine. The mixture was stirred at room temperature for 2 hours and then at 50° C. for 2 hours. The reaction mixture was poured into 50 ml of water. The mixture was extracted with three 50-ml portions of ethyl acetate. The extract was washed with 50 ml of a saturated aqueous sodium chloride solution, dried with magnesium sulfate, and subjected to distillation to remove the solvent. The residue was purified by a silica gel column chromatography (eluant:dichloromethane/methanol=10/1 to dichloromethane/methanol/ammonia water=100/10/1). The product was recrystallized from ethyl acetate-n-hexane to obtain 500 mg of 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-(2-dimethylaminoethoxy)-4-(1,2,4-triazol-1-yl)benzoyl]piperidine as a white powder.

reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-hydroxy-4-(1,2,4-triazol-1-yl)benzoyl]piperidine | 1.0 g | CN(CCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC(=C(C=C1)N1N=CN=C1)O)=O | C23H27N5O2
reactant | (2-chloroethyl)dimethylamine | 320 mg | ClCCN(C)C | C4H10ClN
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[N-methyl-N-(2-phenylethyl)amino]-1-[3-(2-dimethylaminoethoxy)-4-(1,2,4-triazol-1-yl)benzoyl]piperidine | 500 mg | CN(CCC1=CC=CC=C1)C1CCN(CC1)C(C1=CC(=C(C=C1)N1N=CN=C1)OCCN(C)C)=O | C27H36N6O2
